US08377931B2
Method B: Synthesis of 4-benzenesulfonyl-6-chloro-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine
Similarly, but replacing piperazine-1-carboxylic acid tert-butyl ester with [1,4]diazepane-1-carboxylic acid tert-butyl ester and 4-benzenesulfonyl-8-bromo-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazine with 8-bromo-4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine the following compound was prepared:

reactant | [1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | 4-benzenesulfonyl-8-bromo-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazine | C1(=CC=CC=C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2Br)Cl | C14H11BrClNO3S
reactant | 8-bromo-4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine | BrC1=CC=CC=2N(CCOC21)S(=O)(=O)C2=CC(=CC=C2)Cl | C14H11BrClNO3S
product | 4-benzenesulfonyl-6-chloro-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine | C1(=CC=CC=C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2N2CCNCC2)Cl | C18H20ClN3O3S
